US04997949
N-(Pentylamidino)thiourea
To a one liter, 3-necked round bottom flask which was equipped with a mechanical stirrer, thermometer, and reflux condenser were added absolute ethanol (180 ml.) and pentylamine (100.0 g., 1.15 mol). The amine solution was cooled in an ice bath while glacial acetic acid (68.9 g., 1.15 mol) was slowly added. Amidinothiourea (90.37 g., 0.76 mol) was added and then the mixture was heated to reflux (85° C.). After 24 hours at reflux, HPLC analysis of the reaction solution indicated that title product (72.6 area %) had formed and that residual amidinothiourea (8.5 area %) remained.

reactant | pentylamine | 1.15 mol, 100.0 g | C(CCCC)N | C5H13N
reactant | acetic acid | 1.15 mol, 68.9 g | C(C)(=O)O | C2H4O2
reactant | Amidinothiourea | 0.76 mol, 90.37 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | N-(Pentylamidino)thiourea | C(CCCC)NC(=N)NC(=S)N | C7H16N4S
